US06177423B1
(S)-[1-(2-Benzyloxy-5-bromo-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinolin-6-yl)-pyrrolidin-3-yl]-carbamic acid, tert-butyl ester
Following the procedure of Example W1, 2-benzyloxy-5-bromo-6-nitro-benzo[de]isoquinoline-1,3-dione (0.40 g, 0.94 mmol, from Example S1-A), (S)-pyrrolidin-3-yl-carbamic acid, tert-butyl ester (0.38 g, 2.1 mmol) and triethyl amine (0.18 g, 1.9 mmol) in DMF (5 mL) were reacted at 80° C. for 48 hours to give 0.43 g of the title compound.

reactant | 2-benzyloxy-5-bromo-6-nitro-benzo[de]isoquinoline-1,3-dione | 0.94 mmol, 0.40 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3[N+](=O)[O-])Br)=O | C19H11BrN2O5
reactant | (S)-pyrrolidin-3-yl-carbamic acid, tert-butyl ester | 2.1 mmol, 0.38 g | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | triethyl amine | 1.9 mmol, 0.18 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-[1-(2-Benzyloxy-5-bromo-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinolin-6-yl)-pyrrolidin-3-yl]-carbamic acid, tert-butyl ester | 0.43 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3N3C[C@H](CC3)NC(OC(C)(C)C)=O)Br)=O | C28H28BrN3O5
